US07157447B2
(R)-(1-(2-((3-(Benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenyl)-5-oxopyrrolidin-2-yl)methyl acetate.
To a solution of intermediate 192, (R)-N-(4-fluoro-2-(2-(hydroxymethyl)-5-oxopyrrolidin-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.045 g, 0.082 mmol) in tetrahydrofuran (5 mL) was added acetyl chloride (12.8 μL, 0.180 mmol) and diisopropylethylamine (31.4 μL, 0.180 mmol). The reaction mixture was stirred at 23° C. for 4 h. NaHCO3 (1N in H2O, 30 mL) was then added and the organic material was extracted with ethyl acetate (2×25 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified on a Biotage system using a silica gel column with ethyl acetate/Hexanes (1:1) to ethyl acetate 100% as eluent to afford the title compound (0.032 g, 67% yield): 1HNMR 400 MHz (MeOD) δ ppm: 7.48 (3H, m), 7.33 (3H, m), 7.16 (1H, m), 7.03 (1H, m), 5.24 (2H, s), 4.60 (1H, m), 4.55 (1H, m), 4.22 (1H, dd, J=12.0, 4.5 Hz), 4.08 (2H, t, J=5.0 Hz), 3.99 (3H, m), 2.62 (2H, m), 2.44 (1H, m), 2.09–1.92 (5H, m), 1.62 (3H, s), 1.61 (3H, s). LCMS (M+H)+ m/z 593.

reactant | (R)-N-(4-fluoro-2-(2-(hydroxymethyl)-5-oxopyrrolidin-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.082 mmol, 0.045 g | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)N1[C@H](CCC1=O)CO | C29H31FN4O6
reactant | acetyl chloride | 0.180 mmol, 12.8 μL | C(C)(=O)Cl | C2H3ClO
reactant | diisopropylethylamine | 0.180 mmol, 31.4 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaHCO3 | 1N, 30 mL | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (R)-(1-(2-((3-(Benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenyl)-5-oxopyrrolidin-2-yl)methyl acetate | 0.032 g, 67% yield | C(C)(=O)OC[C@@H]1N(C(CC1)=O)C1=C(C=CC(=C1)F)CNC(=O)C=1N=C2C(OCCN2C(C1OCC1=CC=CC=C1)=O)(C)C | C31H33FN4O7
